US07674789B2
3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (20 mg, 0.04 mmol) in DCM (5 mL) was added N,N,N′-trimethyl-1,3-propanediamine (0.029 mL, 0.20 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (16 mg, 72%). LC-MS m/z 552 (M+H)+; 1H-NMR (MeOD) δ 1.00 (t, 3H), 1.66 (m, 4H), 2.03 (m, 2H), 2.19 (s, 6H), 2.32 (s, 3H), 2.98 (s, 3H), 3.37 (m, 4H), 4.15 (s, 2H), 7.17 (t, 2H), 7.45 (d, 1H), 7.53 (m, 1H), 7.69 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.04 mmol, 20 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | N,N,N′-trimethyl-1,3-propanediamine | 0.20 mmol, 0.029 mL | CN(CCCNC)C | C6H16N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide | 16 mg, 72% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)N(C)CCCN(C)C)=O | C29H35F2N7O2
